US07265104B2
To a solution of 3-{6-[(isopropyl-phenyl-carbamoyl)-methyl]-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indole-1-carboxylic acid tert-butyl ester (100 mg, 0.147 mmol) in DMF (2 mL) at −5° C. was added KHMDS (0.5M in THF, 322 μL, 0.161 mmol). The solution was stirred at −5° C. for 20 minutes and methyl iodide (10 μL, 0.161 mmol) was added. The reaction was stirred at room temperature for 24 hours, was diluted with EtOAc and the organic solution was washed with brine (3×). The organic solution was dried (Na2SO4), filtered and concentrated. The residue was purified by preparative chromatography (2×) eluting with 50% EtOAc in hexanes to provide 34 mg of 3-{6-[(isopropyl-phenyl-carbamoyl)-methyl]-4-methyl-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indole-1-carboxylic acid tert-butyl ester. 1H NMR (CD2Cl2) δ 8.05 (d, 1H), 7.67 (d, 1H), 7.36-7.54 (m, 10H), 7.08-7.30 (m, 6H), 6.90 (d, 1H), 5.02 (m, 1H), 4.29 (d, 1H), 4.11 (m, 1H), 2.78 (s, 2H), 1.80 (s, 3H), 1.64 (s, 9H), 1.10 (m, 6H); MS 695.3 (M+1).

reactant | 3-{6-[(isopropyl-phenyl-carbamoyl)-methyl]-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indole-1-carboxylic acid tert-butyl ester | 0.147 mmol, 100 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC1C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=CC=C2)CC(N(C2=CC=CC=C2)C(C)C)=O)=O | C41H40N6O4
reactant | KHMDS | 0.161 mmol, 0.5M, 322 μL | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | methyl iodide | 0.161 mmol, 10 μL | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-{6-[(isopropyl-phenyl-carbamoyl)-methyl]-4-methyl-5-oxo-1-phenyl-5,6-dihydro-4H-2,3,6,10b-tetraaza-benzo[e]azulen-4-ylmethyl}-indole-1-carboxylic acid tert-butyl ester | 34 mg | C(C)(C)(C)OC(=O)N1C=C(C2=CC=CC=C12)CC1(C(N(C2=C(N3C(=NN=C13)C1=CC=CC=C1)C=CC=C2)CC(N(C2=CC=CC=C2)C(C)C)=O)=O)C | C42H42N6O4
